US05834501
5-{4-(5-Isopropoxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethyl-thiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.33 g 5-isopropoxy-2-hydroxymethyl-3-methylimidazo[5,4-b]pyridine (prepared as described in Preparation 102), 0.69 g of 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione, 0.37 ml of tributylphosphine, 0.38 g of 1,1'-(azodicarbonyl)di-piperidine and 20 ml of toluene were used, and that the product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.85 g of the title compound, melting at 90°-100° C. (softening)

reactant | 5-isopropoxy-2-hydroxymethyl-3-methylimidazo[5,4-b]pyridine | 0.33 g | C(C)(C)OC1=CC=C2C(=N1)N(C(=N2)CO)C | C11H15N3O2
reactant | 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione | 0.69 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.37 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)di-piperidine | 0.38 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(5-Isopropoxy-3-methylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethyl-thiazolidine-2,4-dione | 0.85 g | C(C)(C)OC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C40H36N4O4S
